US08648066B2
N-{2-amino-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-3-yl}butanamide (50 mg) was dissolved in acetic acid (0.2 mL) and heated in a microwave oven at 150 watts, 120° C. for 30 minutes. The reaction mixture was concentrated, dissolved in methanol (2 mL) and purified by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile) to give 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(2-propyl-3H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (12 mg, 32% yield), 1H NMR (400 MHz, Methanol-d4): 8.51 (br, 1H), 8.37 (s, 1H), 8.06 (s, 1H), 7.61 (s, 1H), 7.51 (d, 1H), 7.10 (d, 1H), 4.74 (s, 2H), 4.36 (m, 2H), 3.96 (m, 2H), 2.94 (t, 2H), 2.77 (t, 2H), 2.48 (s, 2H), 1.89 (m, 2H), 1.66 (t, 2H), 1.01 (t, 3H), 0.81 (s, 6H); MS (EI) for C28H32N6O: 469 (MH+).

reactant | N-{2-amino-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-3-yl}butanamide | 50 mg | NC1=NC=C(C=C1NC(CCC)=O)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3CCC(CC23)(C)C)C1 | C28H34N6O2
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(2-propyl-3H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 12 mg, 32% yield | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)NC(=N1)CCC)C | C28H32N6O
